US07812183B2
and 3-Hydroxy-2,2-dimethyl-4-(1-phenyl-1H-pyrazol-3-yloxy)-chroman-6-carbonitrile (Compound #58)
Following the procedure in Example 1, using (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile and 1-phenyl-1,2-dihydro-pyrazol-3-one as starting materials, the title compounds were prepared as white solids.

reactant | (±)-2,2-dimethyl-1a,7b-dihydro-2H-1,3-dioxa-cyclopropa[a]naphthalene-6-carbonitrile | CC1(C2C(C3=CC(=CC=C3O1)C#N)O2)C | C12H11NO2
reactant | 1-phenyl-1,2-dihydro-pyrazol-3-one | C1(=CC=CC=C1)N1NC(C=C1)=O | C9H8N2O
product | 3-Hydroxy-2,2-dimethyl-4-(1-phenyl-1H-pyrazol-3-yloxy)-chroman-6-carbonitrile | OC1C(OC2=CC=C(C=C2C1OC1=NN(C=C1)C1=CC=CC=C1)C#N)(C)C | C21H19N3O3
